US04411839
Following the procedure of Example 1, α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide is reacted with phenylhydrazine to give α-cyano-β-phenylhydrazino-N-ethoxycarbonylacrylamide, which in turn is cyclized by heating in tetralin, yielding 5-cyano-1-anilino-2,4-pyrimidinedione. The foregoing compound has been reported by G. Shaw, J. Chem. Soc., 1955, 1834-1840.

reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
product | α-cyano-β-phenylhydrazino-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNNC1=CC=CC=C1 | C13H14N4O3
